US04533739
A mixture of 10.0 g (65.7 mmole) of 2-methyl-4-nitroaniline and 10.7 g (72.3 mmole) of phthalic anhydride was heated in an oil bath with an initial temperature of 150°. As the temperature was raised slowly to 165°, the mixture melted and resolidified. The cooled mixture was triturated with 200 ml of dichloromethane and filtered, and the filtrate was washed successively with 3N aqueous hydrochloric acid, water, and 5% aqueous sodium hydroxide. The organic phase was dried over calcium chloride, treated with activated charcoal, filtered, and the filtrate concentrated in vacuo. The resultant solid was suspended in hot ethanol and, after cooling, was collected and dried, giving 15.4 g of N-(2-methyl-4-nitrophenyl)phthalimide. A portion (10.0 g) of the intermediate was hydrogenated in tetrahydrofuran containing 4 ml of concentrated aqueous hydrochloric acid using 5 psi hydrogen gas over 5% palladium on carbon. The filtered solution was concentrated to dryness and the resultant solid washed with methanol, giving 8.3 g of the title compound. The product thus isolated was used in subsequent reactions without further purification.

reactant | 2-methyl-4-nitroaniline | 65.7 mmole, 10.0 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | phthalic anhydride | 72.3 mmole, 10.7 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
product | N-(2-methyl-4-nitrophenyl)phthalimide | 15.4 g | CC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC=CC2)=O | C15H10N2O4
